US08729102B2
E) tert-butyl [(1S)-2-({6-[(2,4-dihydroxyphenyl)carbamoyl]-5-fluoropyridin-3-yl}oxy)-1-methylethyl]carbamate
A mixture of 5-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)-3-fluoropyridine-2-carboxylic acid (357 mg), 4-aminobenzene-1,3-diol hydrochloride (184 mg), HATU (432 mg), N,N-diisopropylethylamine (0.391 mL) and DMF (5 mL) was stirred at room temperature overnight. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The combined organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (321 mg).

reactant | 5-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)-3-fluoropyridine-2-carboxylic acid | 357 mg | C(C)(C)(C)OC(=O)N[C@H](COC=1C=C(C(=NC1)C(=O)O)F)C | C14H19FN2O5
reactant | 4-aminobenzene-1,3-diol hydrochloride | 184 mg | Cl.NC1=C(C=C(C=C1)O)O
reactant | HATU | 432 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.391 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | Water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | tert-butyl [(1S)-2-({6-[(2,4-dihydroxyphenyl)carbamoyl]-5-fluoropyridin-3-yl}oxy)-1-methylethyl]carbamate | 321 mg | OC1=C(C=CC(=C1)O)NC(=O)C1=C(C=C(C=N1)OC[C@H](C)NC(OC(C)(C)C)=O)F | C20H24FN3O6
